US05446042
Preparation of 1-[(4-methoxyphenyl)carbonylmethyl]-4-(4,5-dihydropyridazin-3(2H)-one-6-yl)pyridinium bromide (Intermediate 49)
4,5-Dihydro-6-(4-pyridyl)-pyridazin-3(2H)-one (175 mg, 1 mmol) and 4'-methoxyphenacyl bromide (252 mg, 1.1 mmol) were dissolved in absolute ethanol (5 ml), refluxed for two hours and then stirred at room temperature overnight. The resulting precipitate was collected by filtration and washed with absolute ethanol to obtain the titled compound (350 mg) as brown columns.

reactant | 4,5-Dihydro-6-(4-pyridyl)-pyridazin-3(2H)-one | 1 mmol, 175 mg | N1=CC=C(C=C1)C=1CCC(NN1)=O | C9H9N3O
reactant | 4'-methoxyphenacyl bromide | 1.1 mmol, 252 mg | COC1=CC=C(C=C1)C(=O)CBr | C9H9BrO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[(4-methoxyphenyl)carbonylmethyl]-4-(4,5-dihydropyridazin-3(2H)-one-6-yl)pyridinium bromide | 350 mg, Yield: 87% | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C=1CCC(NN1)=O | InChI=1S/C18H17N3O3.BrH/c1-24-15-4-2-14(3-5-15)17(22)12-21-10-8-13(9-11-21)16-6-7-18(23)20-19-16;/h2-5,8-11H,6-7,12H2,1H3;1H
